US04367238
Pyridine (1 ml) was added to a solution of 2-(2-fluorophenylthio)phenol (9.4 g) in acetic anhydride (10 ml), and the mixture was stirred at room temperature for 30 minutes. The excess of acetic anhydride was distilled off under reduced pressure, and the resultant oily residue was dissolved in diethyl ether. The ether solution was washed with 10% hydrochloric acid and water in turn, dried and evaporated under reduced pressure to give oily 2-fluorophenyl 2-acetoxyphenyl thioether (11.2 g).

reactant | Pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-(2-fluorophenylthio)phenol | 9.4 g | FC1=C(C=CC=C1)SC1=C(C=CC=C1)O | C12H9FOS
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-fluorophenyl 2-acetoxyphenyl thioether | 11.2 g | C(C)(=O)OC1=C(C=CC=C1)SC1=C(C=CC=C1)F | C14H11FO2S
